Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides) / Novocain / Sotalol / Procainamide
 
Attending: ___.
 
Chief Complaint:
Malaise, abdominal bloating, fever
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o man with hx. atrial fibrillation s/p ablation 3 d ago now 
readmitted via ED after presenting there with malaise, fever to 
101 at home, abdominal bloating, found to have possible 
pneumonia. 

ROS - malaise, abdominal bloating, fevers.  Denies LH, cough, 
sob, chest pain, palpitations, blood in stools, n/v/d, pain in 
either groin or in limbs, difficulty with ambulation, rash, 
numbness or weakness.

All other systems reviewed and negative.
 
Past Medical History:
Atrial fibrillation
Depression
HTN
HCL
GERD
 
Social History:
___
Family History:
denies
 
Physical Exam:
AF and VSS.  Sat 99% 2 litres O2
NAD
A and O
No JVD
___, no MRG
CTA throughout
Abdomen mildly distended, non tender, bs present, no hsm
Groin puncture sites without bleeding, visible 
swelling/hematomae, femoral pulses bt intact and DP pulses bt 
intact
No peripheral edema
No rash
Moves all extremities
Ambulatory independently
 
Pertinent Results:
 
IMPRESSION: 
1. No intra-abdominal abscess. No acute intra-abdominal process. 

2. Moderate-sized bilateral pleural effusions, with 
consolidation densities 
in the left lower lobe, could represent pneumonia. 
3. Indeterminate bilateral renal masses may represent complex 
cysts, 
incompletely characterized in this CT. Recommend non-urgent 
renal ultrasound 
to further characterize. 
4. 12-mm hypodense left hepatic lesion, incompletely 
characterized in this 
CT, but could represent a benign hepatic hemangioma. ___ 
consider non-urgent 
abdominal ultrasound to further characterize. 
5. 7-mm LLL pulmonary nodule. In the absence of risk factor for 
lung cancer, 
recommend CT chest follow-up in one year. Otherwise follow-up in 
3 to 6 
months per ___ guideline.

CXR

FINDINGS: As compared to the previous radiograph, there is no 
relevant 
change. Mild-to-moderate pulmonary edema with cardiomegaly, 
small bilateral 
pleural effusions, and basal areas of parenchymal opacities. No 
newly 
occurred focal parenchymal opacities. No pneumothorax. 
 

 
Brief Hospital Course:
Impression:

Fever, malaise, LL consolidation, all concerning for Healthcare 
associated pneumonia given recent intubation and procedure 
within the past three days.

? new, mild pulmonary edema with small bilateral pleural 
effusions.

Hospital course:

Despite the above radiographic findings, Mr. ___ had no: 
fevers, chest pain, sob, hypoxemia, chills, or malaise, cough to 
suggest either acute heart failure/pulmonary edema OR pneumonia. 


Given the fact that he had recently been hospitalized and 
intubated, I did start him on empiric antibiotics for healthcare 
associated pneumonia on hospital day one and observed him with 
cultures of the sputum and blood ordered.  He continued to 
appear well, without any complaints whatsoever.  I narrowed the 
antibiotic to empiric levaquin for a planned short (5 day) 
course for ? pneumonia given complaint of fever prior to 
presentation.  He continued to appear well and stated he had NO 
symptoms, felt at baseline.  

Repeat CXR again demonstrated cardiomegaly, mild vascular 
congestion, and small pleural effusions.  His lungs remained 
clear to auscultation and he was without any symptoms of heart 
failure.  I did give him one dose of lasix to which he 
experienced a significant diuresis, but again, he did not report 
any symptoms or subjective change following this. 

Given his well - appearance, he was discharged home with 
instructions below, most importantly, to arrange follow up with 
his cardiologist this week for an echocardiogram and repeat 
evaluation.  While here he was seen by the EP fellow, who had 
nothing to add/no other recommendations. 

Given the incidental findings on his CTAP, I notified his 
primary MD via letter of the need for surveillance and follow up 
and informed Mr. ___.

 
Medications on Admission:
omeprazole 20 mg daily
Warfarin 2.5 mg daily
Verapamil SR 240 mg daily
Simvastatin 40 mg daily
Niacin SR 500 mg daily
Quinidine ER 324 mg Q 8 Hours
Citalopram 20 mg daily
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
3. verapamil 240 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q24H (every 24 hours).  
4. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. niacin 500 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
6. quinidine gluconate 324 mg Tablet Sustained Release Sig: One 
(1) Tablet Sustained Release PO Q8H (every 8 hours).  
7. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation .  
8. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 2 days: take on ___ and ___ then stop.
Disp:*2 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mild pulmonary edema with small pleural effusions
Question of pneumonia on presentation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
see below.  

Resume your home medications.  

I have prescribed only one antibiotic - please take this as 
prescribed. 

Call your cardiologist to arrange follow up this week, and for 
an echocardiogram
 
Followup Instructions:
___